US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 3-chlorobenzaldehyde was carried out according to General Synthetic Method 5. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 21 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.05% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[(3-chlorophenyl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | 6-[4-[(3-chlorophenyl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=C(C=CC1)CN1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C17H16ClF3N6
